US07001897B2
To a solution of 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine (1.02 g, 2.39 mmol) (obtained as described in Reference Example 2(2)) in tetrahydrofuran (50 ml) were added diphenylphosphoryl azide (0.8 ml, 3.71 mmol), triphenylphosphine (950 mg, 3.62 mmol) and 40% diethylazodicarboxylate in toluene solution (1.32 g, 3.59 mmol) in an ice bath under an atmosphere of nitrogen. The mixture was stirred in an ice bath for 2 hours. After checking the completion of the reaction, the mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using hexane:ethyl acetate (8:1) as the eluant to afford 1-(4-azidomethyl-1,3-thiazol-2-yl)-3-t-butyldiphenylsilyloxyazetidine (1.06 g, yield 99%) as colorless syrup.

reactant | 3-t-butyldiphenylsilyloxy-1-(4-hydroxymethyl-1,3-thiazol-2-yl)azetidine | 2.39 mmol, 1.02 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CN(C1)C=1SC=C(N1)CO | C23H28N2O2SSi
reactant | diphenylphosphoryl azide | 3.71 mmol, 0.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triphenylphosphine | 3.62 mmol, 950 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | toluene | 3.59 mmol, 1.32 g | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-(4-azidomethyl-1,3-thiazol-2-yl)-3-t-butyldiphenylsilyloxyazetidine | 1.06 g, yield 99% | N(=[N+]=[N-])CC=1N=C(SC1)N1CC(C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C23H27N5OSSi
